US04487929
1.69 of tert.butyl 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (diastereomer A) were treated with 10 ml of trifluoroacetic acid at room temperature for 2 hours. The solution was evaporated and the residue was re-evaporated with toluene several times. The residue was then crystallized from acetone to give 1.1 g of 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylic acid having a melting point of 166°-168° C. (decomposition).

reactant | tert.butyl 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | C(C)(=O)SCC1C(N2N(CCCC2C(=O)OC(C)(C)C)C1)=O | C15H24N2O4S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylic acid | 1.1 g | C(C)(=O)SCC1C(N2N(CCCC2C(=O)O)C1)=O | C11H16N2O4S
